US07514451B2
Ethyl 7-chloro-6-fluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-1,8-naphthyridine-3-carboxylate (327 mg), (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine (174 mg), 1,8-diazabicyclo[5.4.0]undec-7-ene (160 mg) and acetonitrile (5 mL) were mixed together. The reaction mixture was stirred at 80° C. for 1 hour and was concentrated under reduced pressure. The resulting residue was dissolved in dichloromethane (30 mL), washed sequentially with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: dichloromethane: acetone=2:1->1:1->dichloromethane: methanol=10:1). The eluted pale yellow solid was dissolved in ethanol (4 mL), followed by addition of a 10% aqueous solution of sodium hydroxide (4 mL), stirring at 60° C. for 70 min, and concentration under reduced pressure. The resulting residue was diluted with water (10 mL), neutralized with 1 mol/L hydrochloric acid (pH 7.5), and extracted with dichloromethane (2×30 mL). The dichloromethane extracts were combined, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant: dichloromethane: methanol=10:1) to give 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid as white crystals (141 mg).

reactant | Ethyl 7-chloro-6-fluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-1,8-naphthyridine-3-carboxylate | 327 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C(C)(C)C)C(=O)OCC)=O)F | C15H16ClFN2O3
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-fluoropyrrolidine | 174 mg | C1(CC1)NC[C@H]1CNC[C@H]1F | C8H15FN2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 160 mg | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 7-[(3S,4S)-3-cyclopropylaminomethyl-4-fluoro-1-pyrrolidinyl]-6-fluoro-1,4-dihydro-1-(1,1-dimethylethyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid | 141 mg | C1(CC1)NC[C@H]1CN(C[C@H]1F)C1=C(C=C2C(C(=CN(C2=N1)C(C)(C)C)C(=O)O)=O)F | C21H26F2N4O3
